US07157447B2
4-Fluoro-2-1,2,3-triazol-2-yl-benzylamine hydrochloride.
Intermediate 77, 4-fluoro-2-1,2,3-triazol-2-yl-benzonitrile, (0.34 g, 1.8 mmol) was dissolved in ethanol (50 mL). 1N HCl (10 mL) was added along with a catalytic amount of 10%-Pd—C. The mixture was shaken under H2 at 55 psi for 4 h after which it was filtered through Celite and concentrated to give the title compound as the corresponding HCl salt. Yellow solid (0.402 g, 98% yield). 1H-NMR (500 MHz, CD3OD) δ ppm: 8.13 (2H, s), 7.87 (1H, dd, J=4.9, 2.6 Hz), 7.73 (1H, dd, J=4.9, 2.6 Hz), 7.34 (1H, td, J=8.2, 2.7 Hz), 4.35 (2H, s). LCMS [M+H]+ calcd for C9H10N4F: 193.08. found: 193.16.

reactant | 4-fluoro-2-1,2,3-triazol-2-yl-benzonitrile | 1.8 mmol, 0.34 g | FC1=CC(=C(C#N)C=C1)N1N=CC=N1 | C9H5FN4
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | 4-Fluoro-2-1,2,3-triazol-2-yl-benzylamine hydrochloride | Cl.FC1=CC(=C(CN)C=C1)N1N=CC=N1 | InChI=1S/C9H9FN4.ClH/c10-8-2-1-7(6-11)9(5-8)14-12-3-4-13-14;/h1-5H,6,11H2;1H
